res_noise.cir - noise analysis: resistor divider, amp, and lp filter
*
* Test .NOISE with data=<tableName>
*
.global_param mag=1
.global_param phase=0.1
*
*
* resistor divider
v1  1 0 dc 5.0 ac  {mag} {phase}
r1  1 2 100k
r2  2 0 100k
*
* amp and lp filter
eamp  3 0 2 0 1
rlp1  3 4 100
clp1  4 0 1.59nf
*

.noise  v(4)  v1  data=table
.print noise V(4) {log(onoise)} {log(inoise)}

*.ac data=table
*.print ac V(4)

.data table
+ mag phase freq
+  1.0   0.1  1.0e0
+  2.0   0.2  1.0e1
+  3.0   0.3  1.0e2
+  4.0   0.4  1.0e3
+  5.0   0.5  1.0e4
+  6.0   0.6  1.0e5
.enddata
